US07598264B2
2-Butoxy-2-oxoethanaminium chloride
Glycine hydrochloride (400 g, 3.58 mol) was suspended in 8 L of n-butanol and thionyl chloride (1.37 L, 18.84 mol) was added slowly dropwise (exotherm). After addition was complete, the reaction was heated to 70° C. overnight. The reaction could be followed by spotting directly on TLC, pumping off the volatiles, eluting with 10% MeOH/CHCl3 saturated with NH3, and staining in ninhydrin. The next day the reaction was stripped to dryness under vacuum and the residue was triturated with heptane/EtOAc to give the product as a white solid after drying on a filter under Nitrogen.

reactant | Glycine hydrochloride | 3.58 mol, 400 g | Cl.NCC(=O)O
reactant | thionyl chloride | 18.84 mol, 1.37 L | S(=O)(Cl)Cl | Cl2OS
reactant | n-butanol | 8 L | C(CCC)O | C4H10O
product | 2-Butoxy-2-oxoethanaminium chloride | [Cl-].C(CCC)OC(C[NH3+])=O | InChI=1S/C6H13NO2.ClH/c1-2-3-4-9-6(8)5-7;/h2-5,7H2,1H3;1H
